US04633024
Trisodium 5-sulfoisophthalate (312 g) was added to 170 g of a 50% aqueous solution of sodium hydroxide, and the mixture was stirred. Then, 1980 g of 1-phenyl-1-(2,3-dimethylphenyl)-ethane was mixed, and the resulting mixture was heated to 280° C. in a nitrogen stream and dehydrated with stirring. The dehydrated mixture was stirred at 280° C. for 1.5 hours. After cooling, 1 liter of water was added to the reaction mixture to separate the reaction medium. The aqueous layer was decolorized with activated carbon, and precipitated with dilute sulfuric acid to give 172.5 g (yield 94.8%) of 5-hydroxyisophthalic acid.

reactant | Trisodium 5-sulfoisophthalate | 312 g | S(=O)(=O)(O)C=1C=C(C=C(C(=O)[O-])C1)C(=O)[O-].[Na+].[Na+].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1-phenyl-1-(2,3-dimethylphenyl)-ethane | 1980 g | C1(=CC=CC=C1)C(C)C1=C(C(=CC=C1)C)C | C16H18
solvent | water | 1 liter | O | H2O
product | 5-hydroxyisophthalic acid | 172.5 g, yield 94.8% | OC=1C=C(C=C(C(=O)O)C1)C(=O)O | C8H6O5
